US06307047B1
2-[4-(Methylthio)phenyl]-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
A solution of the product from Example 11, 4-(4-Fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (344 mg, 1.0 mmol), 4-bromothioanisole (812 mg, 4.0 mmol), and copper (70 mg, 1.1 mmol) in 20 mL of pyridine was stirred at reflux under a nitrogen atmosphere for 18 hours. After cooling to room temperature, the reaction mixture was diluted with a mixture of water and ethyl acetate. The two layers were filtered through Celite®, and separated. The organic layer was washed with 10% aqueous citric acid, with brine, dried over MgSO4, and filtered. The filtrate was concentrated in vacuo and the residue purified by column chromatography (silica gel, 93:7 dichloromethane/ethyl acetate) to provide the title compound as a foam (yield: 380 mg, 81.5%). 1H NMR (300 MHz, CDCl3) δ 2.55 (s, 3H), 3.05 (s, 3H), 6.98 (t, J=9 Hz, 2H), 7.22 (dd, J=9 Hz, 6 Hz, 2H), 7.38 (dd, J=8 Hz, 2 Hz, 4H), 7.64 (d, J=9 Hz, 2H), 7.91 (d, J=9 Hz, 2H), 7.98 (s, 1H). MS (DCI/NH3) m/z 467 (M+H)+. Anal. calc. for C24H19FN2O3S2.0.5 H2O: C, 60.63; H, 4.21; N, 5.90. Found: C, 60.72; H, 3.78; N, 5.99.

reactant | 4-(4-Fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 1.0 mmol, 344 mg | FC1=CC=C(C=C1)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13FN2O3S
reactant | 4-bromothioanisole | 4.0 mmol, 812 mg | BrC1=CC=C(C=C1)SC | C7H7BrS
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper | 1.1 mmol, 70 mg | [Cu] | Cu
product | 2-[4-(Methylthio)phenyl]-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 380 mg, 81.5% | CSC1=CC=C(C=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O3S2
